US08859584B2
(R)-2,2-dimethylchroman-4-amine
Example 17A (11.8 g, 66.4 mmol) and THF (240 mL) were cooled to −30° C. and methanesulfonic anhydride (14.46 ml, 113 mmol) was added. N,N-Diisopropylethylamine (18.56 mL, 106 mmol) was added at ≦−30° C. and the solution was warmed to −20° C. After 2 hours of stirring, more base (0.3 equiv) and methanesulfonic anhydride (0.2 equiv) were added. The mixture was stirred for 10 minutes at 0° C., then cooled to −30° C. and tetra-N-butylammonium azide (41.6 g, 146 mmol) was added. The slurry was allowed to slowly warm to room temperature overnight. After 14 hours, MeOH (60 mL) and 2N NaOH (60 mL) were added, and the mixture was stirred for 30 minutes, and diluted with MTBE (240 mL) and water (120 mL). The layers were separated and the organic layer was washed with water (60 mL), 2N HCl (2×60 mL), water (60 mL), and brine (24 mL). The aqueous portion was back-extracted with MTBE (200 mL). The organic layers were combined, dried (Na2SO4), filtered, and concentrated. The residue was dissolved in THF (216 mL) and water (24 mL), triphenylphosphine (19.2 g, 73.0 mmol) was added and the yellow solution was heated at 60° C. for 3 hours. The reaction was cooled, concentrated and dichloromethane (120 mL), water (120 mL), and 2N HCl (60 mL) were added. The layers were separated, and the aqueous layer was washed with dichloromethane (60 mL). To the aqueous layer, 2N NaOH (75 mL) was added. The basified aqueous suspension was extracted with dichloromethane (5×60 mL), dried (Na2SO4), filtered, and concentrated, giving the title compound (6.99 g, 39.4 mmol, 59%). Chiral HPLC (21% IPA/hexanes, ChiralPak OJ, 0.5 mL/min, major=10.9 min, minor=10.1 min) showed 70% ee. MS (LCMS) m/z 178 (M+H)+.

reactant | methanesulfonic anhydride | 113 mmol, 14.46 ml | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | N,N-Diisopropylethylamine | 106 mmol, 18.56 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonic anhydride | 0.2 equiv | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | tetra-N-butylammonium azide | 146 mmol, 41.6 g | CCCC[N+](CCCC)(CCCC)CCCC.[N-]=[N+]=[N-]
reactant | NaOH | 2N, 60 mL | [OH-].[Na+]
reactant | triphenylphosphine | 73.0 mmol, 19.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | MTBE | 240 mL | CC(C)(C)OC | C5H12O
solvent | water | 120 mL | O | H2O
solvent | water | 24 mL | O | H2O
solvent | MeOH | 60 mL | CO | CH4O
solvent | THF | 240 mL | C1CCOC1 | C4H8O
product | (R)-2,2-dimethylchroman-4-amine | 39.4 mmol, 6.99 g, 59% | CC1(OC2=CC=CC=C2[C@@H](C1)N)C | C11H15NO
